US05597845
(S)-N-Benzyl-N-methyl-2-[N-(t-butoxycarbonyl)-2-hydroxy-ethylamino]-3-phenyl-propionamide
Combine (S)-N-benzyl-N-methyl-2-[N-(t-butoxycarbonyl)-2-oxo-ethylamino]-3-phenyl-propionamide (5.0 mmol) and sodium borohydride (5.0 mmol) in ethanol (20 mL). Stir for 16 hours. Concentrate in vacuo to obtain a residue. Dilute the residue with ethyl acetate and extract with 0.5M hydrochloric acid solution and water. Separate the layers, dry the organic layer over MgSO4, filter, and evaporate in vacuo to give the title compound.

reactant | (S)-N-benzyl-N-methyl-2-[N-(t-butoxycarbonyl)-2-oxo-ethylamino]-3-phenyl-propionamide | 5.0 mmol | C(C1=CC=CC=C1)N(C([C@H](CC1=CC=CC=C1)N(C(=O)OC(C)(C)C)CC=O)=O)C | C24H30N2O4
reactant | sodium borohydride | 5.0 mmol | [BH4-].[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-N-Benzyl-N-methyl-2-[N-(t-butoxycarbonyl)-2-hydroxy-ethylamino]-3-phenyl-propionamide | C(C1=CC=CC=C1)N(C([C@H](CC1=CC=CC=C1)N(C(=O)OC(C)(C)C)CCO)=O)C | C24H32N2O4
